US08258144B2
A solution of 2-chloro-N-cyclopropyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (200 mg, 0.409 mmol), Pd2 dba3 (23 mg, 0.025 mmol) and dppf (45 mg, 0.081 mmol) in DMF (2 mL) was degassed with Ar before being charged with Zn(CN)2 (28 mg, 0.24 mmol). The mixture was stirred at 70° C. for 2 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a flash silica gel column, eluted with EtOAc/hexane (0-15%) to give 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (110 mg).

reactant | 2-chloro-N-cyclopropyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.409 mmol, 200 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C16H14ClIN4O2S
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | Pd2 dba3 | 0.025 mmol, 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dppf | 0.081 mmol, 45 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | Zn(CN)2 | 0.24 mmol, 28 mg | [C-]#N.[C-]#N.[Zn+2]
product | 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 110 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C17H14ClN5O2S
